US09351965B2
Preparation of methyl 3-(diphenylmethyleneamino)-1-(4-fluorobenzyl)cyclohexanecarboxylate
In a flask, lithium bis(trimethylsilyl)amide (LHMDS) (1M) in THF (2.83 mL, 2.83 mmol) was added to tetrahydrofuran (10 mL). The reaction mixture was cooled to −78° C., and then a solution of methyl 3-(diphenylmethyleneamino)cyclohexanecarboxylate (700 mg, 2.18 mmol) and tetrahydrofuran (1 mL) was added drop-wise to the reaction mixture at −78° C. The reaction was stirred at −78° C. for 30 minutes. Afterwards, 4-fluorobenzylbromide (0.402 mL, 3.27 mmol) was added, and the reaction was stirred for an additional 24 hours at 0° C. Upon reaction completion, the reaction was quenched with saturated ammonium chloride solution (50 mL) and extracted three times with ethyl acetate (50 mL). The organic layers were combined, dried with sodium sulfate, and concentrated to yield crude product. The crude product was progressed to the next step without further purification.

reactant | lithium bis(trimethylsilyl)amide | 1M | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | methyl 3-(diphenylmethyleneamino)cyclohexanecarboxylate | 2.18 mmol, 700 mg | C1(=CC=CC=C1)C(C1=CC=CC=C1)=NC1CC(CCC1)C(=O)OC | C21H23NO2
reactant | 4-fluorobenzylbromide | 3.27 mmol, 0.402 mL | FC1=CC=C(CBr)C=C1 | C7H6BrF
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | THF | 2.83 mmol, 2.83 mL | C1CCOC1 | C4H8O
product | methyl 3-(diphenylmethyleneamino)-1-(4-fluorobenzyl)cyclohexanecarboxylate | C1(=CC=CC=C1)C(C1=CC=CC=C1)=NC1CC(CCC1)(C(=O)OC)CC1=CC=C(C=C1)F | C28H28FNO2
